US04032524
1.3 g. (0.01 mole) of 5-fluorouracil was dissolved in 20 ml. of dimethyl acetamide and then 0.48 g. (0.01 mole) of 50% sodium hydride was added thereto. Subsequently, 1.36 g. (0.01 mole) of N,N-diethylcarbamoyl chloride in 5 ml. of dimethyl acetamide was added dropwise at 30° C. After stirring at 30° C. for 5 hours, the reaction mixture was allowed to stand overnight at room temperature. The reaction mixture was filtered and the resultant filtrate was evaporated under reduced pressure. The residue obtained was extracted with 30 ml. of chloroform and the extract was concentrated to dryness to give 2.14 g. of crude product. The product was washed with diethyl ether and 1.73 g. (75.5% yield) of 1-(N,N-diethylcarbamoyl)-5-fluorouracil melting at 157°-160° C. was obtained.

reactant | 5-fluorouracil | 0.01 mole | FC=1C(NC(NC1)=O)=O | C4H3FN2O2
reactant | sodium hydride | 0.01 mole | [H-].[Na+]
reactant | N,N-diethylcarbamoyl chloride | 0.01 mole | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | dimethyl acetamide | CC(=O)N(C)C | C4H9NO
product | 1-(N,N-diethylcarbamoyl)-5-fluorouracil | 75.5% yield | C(C)N(C(=O)N1C(=O)NC(=O)C(=C1)F)CC | C9H12FN3O3
